US07666888B2
4-{[(2R)-2-(Methoxymethyl)pyrrolidin-1-yl]carbonyl}-5-[4-(trifluoromethyl)phenyl]isoxazole
The title compound was prepared from 5-(4-trifluoromethylphenyl)isoxazole-4-carboxylic acid (12.9 mg, 0.050 mmol) and (R)-2-methoxymethyl-pyrrolidine (6.9 mg, 0.060 mmol) as described in synthetic method C and thereafter purified by preparative HPLC method B to give a solid (10.1 mg). Calcd for C17H17F3N2O3: 354.1191, found 354.1190.

reactant | 5-(4-trifluoromethylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 12.9 mg | FC(C1=CC=C(C=C1)C1=C(C=NO1)C(=O)O)(F)F | C11H6F3NO3
reactant | (R)-2-methoxymethyl-pyrrolidine | 0.060 mmol, 6.9 mg | COC[C@@H]1NCCC1 | C6H13NO
product | 4-{[(2R)-2-(Methoxymethyl)pyrrolidin-1-yl]carbonyl}-5-[4-(trifluoromethyl)phenyl]isoxazole | COC[C@@H]1N(CCC1)C(=O)C=1C=NOC1C1=CC=C(C=C1)C(F)(F)F | C17H17F3N2O3
